US07115611B2
G] [4-(tert-Butoxycarbonyl-methyl-amino)-2-(3-methoxy-propyl)-phenoxy-acetic acid ethyl ester
To 2.21 g (6.01 mmol) of the above prepared [4-tert-butoxycarbonylamino-2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester, dissolved in 18 ml of abs. DMF, was added at 0° C. 0.313 g of NaH (60% in mineral oil, 1.3 eq.). 5 Min. later, 0.75 ml (2 eq.) of MeI was added and the reaction allowed to proceed for 10 Min. at 0° C. and for 1 h at ambient temperature. Pouring onto crashed ice/KHSO4 solution, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=8/2), yielded 1.55 g of the title compound as light yellow oil.

reactant | [4-tert-butoxycarbonylamino-2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)CCCOC)=O | C19H29NO6
reactant | NaH | 0.313 g, 1.3 eq. | [H-].[Na+]
reactant | MeI | 0.75 ml, 2 eq. | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(tert-Butoxycarbonyl-methyl-amino)-2-(3-methoxy-propyl)-phenoxy-acetic acid ethyl ester | 1.55 g | C(C)OC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)CCCOC)=O | C20H31NO6
